US04104392
A solution of 3 g of methyl 2-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylate in 15 ml of methanol and 5 ml of 2N NaOH solution was warmed to 50° C and held at that temperature for 15 hours. At the end of this period, the reaction mixture was concentrated and chromatographed on 200 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with ethanol-water (1:4) and eluted with ethanol-water-NH4OH (10:9:1). The main fraction was evaporated to dryness and washed with ether to give 1.6 g of 2-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid.

reactant | methyl 2-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 3 g | COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1CC2=CC=CC=C2CC1C(=O)OC | C29H35N5O7S
solvent | methanol | 15 ml | CO | CH4O
solvent | NaOH | 2N, 5 ml | [OH-].[Na+]
product | 2-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 1.6 g | COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1CC2=CC=CC=C2CC1C(=O)O | C28H33N5O7S
